US05116526
Until HCFC-225cc becomes available in commercial quantities, HCFC-225cc may be prepared by a standard and well-known organic synthesis technique. For example, 1,1-dichloro-1,2,2,3,3-pentafluoropropane may be prepared by reacting 2,2,3,3-tetrafluoro-1-propanol and p-toluenesulfonate chloride to form 2,2,3,3-tetrafluoropropyl-p-toluenesulfonate. Next, the 2,2,3,3-tetrafluoropropyl-p-toluenesulfonate is reacted with potassium fluoride in N-methylpyrrolidone to form 1,1,2,2,3-pentafluoropropane. Then, the 1,1,2,2,3-pentafluoropropane is reacted with chlorine to form 1,1-dichloro-1,2,2,3,3-pentafluoropropane.

reactant | HCFC-225cc | C(C(C(F)(Cl)Cl)(F)F)(F)F | C3HCl2F5
reactant | 1,1-dichloro-1,2,2,3,3-pentafluoropropane | ClC(C(C(F)F)(F)F)(F)Cl | C3HCl2F5
reactant | 2,2,3,3-tetrafluoro-1-propanol | FC(CO)(C(F)F)F | C3H4F4O
reactant | p-toluenesulfonate chloride | [Cl-].C1(=CC=C(C=C1)S(=O)(=O)[O-])C
product | 2,2,3,3-tetrafluoropropyl-p-toluenesulfonate | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(C(F)F)F | C10H10F4O3S
